US08557983B2
2-(3-chloro-5-nitrophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
1-Bromo-3-chloro-5-nitrobenzene (0.51 g), bis(pinacolato)diboron (0.60 g), potassium acetate (0.63 g), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.09 g) were combined with dimethylformamide (5.3 mL), flushed with nitrogen, heated at 60° C. overnight, diluted with ethyl acetate, washed with water and brine, dried (MgSO4), filtered, concentrated and chromatographed on silica gel with 5-10% ethyl acetate in hexanes as eluent to give the product.

reactant | 1-Bromo-3-chloro-5-nitrobenzene | 0.51 g | BrC1=CC(=CC(=C1)[N+](=O)[O-])Cl | C6H3BrClNO2
reactant | bis(pinacolato)diboron | 0.60 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.63 g | C(C)(=O)[O-].[K+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.09 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dimethylformamide | 5.3 mL | CN(C=O)C | C3H7NO
product | 2-(3-chloro-5-nitrophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | ClC=1C=C(C=C(C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BClNO4
